US07932277B2
(S)-2-amino-3,3-dimethylbutanoic acid (0.50 g, 3.81 mmol), K2CO3 (1.580 g, 11.44 mmol), copper(I) iodide (0.073 g, 0.38 mmol) and 1-bromo-3-fluoro-5-(trifluoromethyl)benzene (2.32 g, 9.53 mmol) in DMA (4 mL) was heated at 95° C. for 32 hrs. H2O (15 mL) and ethyl ether (20 ml) was added. The aqueous phase was isolated and acidified with saturated KHSO4 solution, extracted with ether, dried over sodium sulfate. After removal of solvent, it gave (S)-2-(3-fluoro-5-(trifluoromethyl)phenylamino)-3,3-dimethylbutanoic acid (0.78 g, 70%) as white solid. LCMS (APCI−): 292.2. 1H NMR (400 MHz, d6-DMSO) δ 12.63 (s, 1H), 6.88 (s, 1H), 6.66 (d, J=12.4 Hz, 1H), 6.61 (d, J=8.8 Hz, 1H), 6.40 (d, J=9.2 Hz, 1H), 3.71 (d, J=9.6 Hz, 1H), 0.98 (s, 9H).

reactant | (S)-2-amino-3,3-dimethylbutanoic acid | 3.81 mmol, 0.50 g | N[C@H](C(=O)O)C(C)(C)C | C6H13NO2
reactant | K2CO3 | 11.44 mmol, 1.580 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-fluoro-5-(trifluoromethyl)benzene | 9.53 mmol, 2.32 g | BrC1=CC(=CC(=C1)C(F)(F)F)F | C7H3BrF4
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
catalyst | copper(I) iodide | 0.38 mmol, 0.073 g | [Cu]I
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | H2O | 15 mL | O | H2O
product | (S)-2-(3-fluoro-5-(trifluoromethyl)phenylamino)-3,3-dimethylbutanoic acid | 0.78 g, 70% | FC=1C=C(C=C(C1)C(F)(F)F)N[C@H](C(=O)O)C(C)(C)C | C13H15F4NO2
